### PR TITLE
feat(Analysis/Matrix): Added Schur's product

### PR DESCRIPTION
**Pull request by TJHeeringa**
Added Schur's product, i.e. the Hadamard product of two finite positive semi-definite matrices is again a positive semi-definite matrix.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Matrix/Order.lean [hunk 1]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+section Hadamard
+
+omit [Fintype n]
+variable [Finite n]
+
+open Matrix in
+open scoped MatrixOrder in
+set_option backward.isDefEq.respectTransparency false in
+/-- Schur's product: The Hadamard product of two PSD matrices is PSD. -/
+theorem hadamard_prod {A B : Matrix n n 𝕜} (hA : A.PosSemidef) (hB : B.PosSemidef) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
theorem PosSemidef.hadamard {A B : Matrix n n 𝕜} (hA : A.PosSemidef) (hB : B.PosSemidef) :
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 2]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  (A ⊙ B).PosSemidef := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]: indent with 4 spaces, proofs are 2 spaces
```suggestion
    (A ⊙ B).PosSemidef := by
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 3]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  have := Fintype.ofFinite n
+  letI := Classical.decEq n
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]: the `classical` tactic takes care of this
```suggestion
  classical
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 4]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  --  Use `√A` to rewrite `A ⊙ B` into a finite sum of PSD matrices.
+  have h : A ⊙ B = ∑ k, let Dk := diagonal ((CFC.sqrt A)ᵀ k); Dk * B * Dkᴴ := by
+    ext
+    simp only [hadamard_apply, diagonal_conjTranspose, sum_apply, mul_diagonal, diagonal_mul,
+      transpose_apply, Pi.star_apply, RCLike.star_def, mul_right_comm _ (B _ _) _, ←Finset.sum_mul]
+    congr 1
+    simp_rw [<-RCLike.star_def, (CFC.sqrt_nonneg A).posSemidef.1.apply,
+      <-mul_apply, CFC.sqrt_mul_sqrt_self A]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
    simp [sum_apply, mul_right_comm _ (B _ _) _, ← Finset.sum_mul,
      (CFC.sqrt_nonneg A).posSemidef.isHermitian.apply,
      ← mul_apply, CFC.sqrt_mul_sqrt_self A]
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 5]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  rw [h]
+  refine posSemidef_sum Finset.univ ?_
+  intro k hk
+  exact PosSemidef.mul_mul_conjTranspose_same hB (diagonal ((CFC.sqrt A)ᵀ k))
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
  exact h ▸ posSemidef_sum Finset.univ fun _ _ ↦ hB.mul_mul_conjTranspose_same _
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 6]
```diff
@@ -314,6 +314,34 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
 
+section Hadamard
+
+omit [Fintype n]
+variable [Finite n]
+
+open Matrix in
+open scoped MatrixOrder in
+set_option backward.isDefEq.respectTransparency false in
+/-- Schur's product: The Hadamard product of two PSD matrices is PSD. -/
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
/-- The Hadamard product of two positive semidefinite matrices is
positive semidefinite. -/
```

**Review by themathqueen — COMMENTED** [review]
Thanks for the PR! Can you also add these:

```lean4
theorem Matrix.conjTranspose_hadamard {m n R : Type*} [Mul R] [StarMul R]
    (A B : Matrix m n R) : (A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ := by ext; simp

@[simp] theorem Matrix.conjTranspose_hadamard' {m n R : Type*} [CommMagma R] [StarMul R]
    (A B : Matrix m n R) : (A ⊙ B)ᴴ = Aᴴ ⊙ Bᴴ := by
  rw [conjTranspose_hadamard, hadamard_comm]

theorem Matrix.IsHermitian.hadamard {m R : Type*} [CommMagma R] [StarMul R]
    {A B : Matrix m m R} (hA : A.IsHermitian) (hB : B.IsHermitian) :
    (A ⊙ B).IsHermitian := by simp [IsHermitian, hA.eq, hB.eq]
```

The first two belong in `Mathlib/LinearAlgebra/Matrix/Hadamard`. And the last one belongs in `Mathlib/LinearAlgebra/Matrix/Hermitian`, but will need you to also import the Hadamard file into it. Unless, maybe we should import the Hermitian file into the Hadamard file?

File: Mathlib/Analysis/Matrix/Order.lean (hunk 5 above)
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Order.lean]: I wouldn't put a `let` in the middle of an expression like this, both for readability, and because `let`s in the middle of expressions are often a pain. And you can use the `suffices` tactic, like so. I've incorporated @themathqueen's edits into this, so I've resolved those conversations.
```suggestion
  let D k := diagonal ((CFC.sqrt A)ᵀ k)
  suffices A ⊙ B = ∑ k, D k * B * (D k)ᴴ from
    this ▸ posSemidef_sum _ fun _ _ ↦ hB.mul_mul_conjTranspose_same _
  ext
  simp [D, sum_apply, mul_right_comm _ (B _ _), ← Finset.sum_mul,
    (CFC.sqrt_nonneg A).posSemidef.isHermitian.apply, ← mul_apply, CFC.sqrt_mul_sqrt_self A]
```

File: Mathlib/Analysis/Matrix/Order.lean (hunk 6 above)
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Order.lean]: This is also true for positive definite matrices. You can either do it in this PR or leave it as a TODO.

Comment (TJHeeringa) [reply Mathlib/Analysis/Matrix/Order.lean]: I'll leave this and the infininite dimensional case as TODO.

File: Mathlib/Analysis/Matrix/Order.lean (hunk 3 above)
Comment (TJHeeringa) [reply Mathlib/Analysis/Matrix/Order.lean]: In the code base, I see both used quite often. Is it always preferred to use `classical` or are there cases that `letI := Classical.decEq n` is preferred?

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean [hunk 7]
```diff
@@ -190,6 +190,17 @@ theorem dotProduct_vecMul_hadamard [DecidableEq m] [DecidableEq n] (v : m → α
...
+section conjTranspose
+
+theorem conjTranspose_hadamard {m n R : Type*} [Mul R] [StarMul R]
+    (A B : Matrix m n R) : (A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ := by ext; simp
+
+@[simp] theorem conjTranspose_hadamard' {m n R : Type*} [CommMagma R] [StarMul R]
+    (A B : Matrix m n R) : (A ⊙ B)ᴴ = Aᴴ ⊙ Bᴴ := by
+  rw [conjTranspose_hadamard, hadamard_comm]
+
+end conjTranspose
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: Ideally you would use the same variables as the rest of the file. I cleaned up the first lemma in #37302, and added the missing `transpose` one.

Comment (TJHeeringa) [reply Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: I took these changes out, since you had moved them to #37302.
